US03991071
A solution of 48.3 g. 4-chlorobenzyl chloride in 40 ml. acetonitrile was added to a mixture of 18 g. propylamine, 12.6 g. sodium hydroxide, 50 ml. acetonitrile and 30 ml. water. The mixture was shaken intermittently for 45 minutes. An exothermic reaction occurred and a white solid separated in the lower phase. After a period of 4 days the reaction mixture was poured into a liter of water and the organic phase isolated with ether. Distillation of the ethereal extract gave an oily product N-4-chlorobenzyl-N-propylamine, b.p. 101°-106° C./1.7-2.5 mm. Hg.

reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | propylamine | C(CC)N | C3H9N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-4-chlorobenzyl-N-propylamine | ClC1=CC=C(CNCCC)C=C1 | C10H14ClN
